US05081289
Example 5: Synthesis of Nopalinic Acid
2 grams of nopaline were dissolved in 35 ml of 1M NaOH and the solution was heated at 100° C. for 12 hours. The reaction mixture was evaporated to dryness to remove ammonia and the crude solid material was dissolved in 25 ml of water. The pH was adjusted to 0.8 to 1.0 and the pH-adjusted solution was chromatographed on a strong cationic exchange column (H+ form). After washing with two column volumes of water, the column was eluted with 10% aqueous ammonia. The eluate containing the nopalinic acid was evaporated to dryness, dissolved in 15 ml of water, adjusted to pH 3.2-3.5 with 1M HCl, and recrystallized by adding approximately 1.5 volumes of ethanol (or acetone). The crystals were recrystallized from aqueous acetone. The characteristics of the compound were as follows:

reactant | nopaline | 2 grams | NC(=N)NCCCC(C(=O)O)NC(C(=O)O)CCC(=O)O | C11H20N4O6
solvent | NaOH | 1M, 35 ml | [OH-].[Na+]
product | Nopalinic Acid | C(CC(C(=O)O)NC(CCC(=O)O)C(=O)O)CN | C10H18N2O6
